US04075346
A mixture of 8.0 g of magnesium turnings, 33 g of anhydrous ethanol and 3 ml of carbon tetrachloride was allowed to react on standing for several minutes. After the exothermic reaction had subsided, 250 ml of anhydrous toluene was slowly added under stirring, and the reaction mixture was stirred at 30°-35° C for an additional 3 hours. To the resulting suspension of magnesium ethoxide, a solution of 84.6 g of α-acetyl-γ-butyrolactone in 100 ml of anhydrous toluene was added dropwise under cooling at 0°-5° C. After the resulting mixture was stirred at room temperature for one hour, crude 4-fluoro-2-nitrobenzoyl chloride, prepared from 55.5 g of 4-fluoro-2-nitrobenzoic acid and 170 ml of thionyl chloride, in 100 ml of anhydrous toluene was added dropwise at 20°-25° C and stirred for an additional 3 hours. After 700 ml of 5% sulfuric acid was added to the resulting mixture under cooling with an ice-salt bath, the organic layer was separated, and the aqueous layer was extracted with portions of toluene. The resulting organic layer contained α-acetyl-α-(4-fluoro-2-nitrobenzoyl)-γ-butyrolactone as the main product. The combined organic layer was washed with water and aqueous saturated sodium chloride solution and extracted with three portions of cold 5% aqueous ammonium hydroxide solution. The combined aqueous ammonium hydroxide layer was washed with toluene and acidified by slow addition of 25% sulfuric acid under cooling. The precipitated solid was collected by filtration, washed with water and dried to give 63.5 g (83.6%) of α-(4-fluoro-2-nitrobenzoyl)-γ-butyrolactone. M.P. 87°-89° C.

reactant | magnesium | 8.0 g | [Mg] | Mg
reactant | magnesium ethoxide | [O-]CC.[Mg+2].[O-]CC
reactant | α-acetyl-γ-butyrolactone | 84.6 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | 4-fluoro-2-nitrobenzoyl chloride | FC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | 4-fluoro-2-nitrobenzoic acid | 55.5 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 170 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuric acid | 700 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 33 g | C(C)O | C2H6O
product | α-(4-fluoro-2-nitrobenzoyl)-γ-butyrolactone | 63.5 g, 83.6% | FC1=CC(=C(C(=O)C2C(=O)OCC2)C=C1)[N+](=O)[O-] | C11H8FNO5
